US04395414
7-Chloro-1,2-dihydro-2-oxo-3-phenylquinoline
17.5 g of 2,4-dichlorobenzaldehyde, 18.9 g of 2-benzyl-4,4-dimethyl-2-oxazoline, 1 g of sodium bisulphate, 50 ml of 1-methylpyrrolidin-2-one and 30 ml of xylene are heated at a bath temperature of 170° C., using a water separator, until 2 ml of water have been separated off. 20 ml of solvent are then distilled off at a bath temperature of 220° C., the mixture is stirred under reflux at this temperature for a further 15 minutes and, after cooling, 300 ml of water are added. The precipitate which has separated out is filtered off and washed with water and methanol. Yield: 21.26 g of m. 254°-258° C.

reactant | 2,4-dichlorobenzaldehyde | 17.5 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 2-benzyl-4,4-dimethyl-2-oxazoline | 18.9 g | C(C1=CC=CC=C1)C=1OCC(N1)(C)C | C12H15NO
reactant | sodium bisulphate | 1 g | S([O-])(O)(=O)=O.[Na+]
reactant | 1-methylpyrrolidin-2-one | 50 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-Chloro-1,2-dihydro-2-oxo-3-phenylquinoline | ClC1=CC=C2C=C(C(NC2=C1)=O)C1=CC=CC=C1 | C15H10ClNO
